US04246408
2-Amino-4-chloro-6-hydroxy-s-triazine II
2-Amino-4,6-dichloro-s-triazine 16.5 g, 0.1 mol) was suspended in 250 mL of water containing sodium hydroxide (4.4 g,0.11 mol), and the mixture was stirred at room temperature for 15 h. The mixture was filtered to remove 5.0 g of unreacted starting material before the cooled (0°-5° C.), clear, colorless filtrate was neutralized (pH 6.8-7.0) with glacial acetic acid. The white solid that separated was collected, washed with cold water (5×25 mL), and dried. It was crystallized from hot water to yield 7.5 g (73.4%, based on the recovery of the starting material): mp>320° C. (lit. mp 300° C.); UVλmax (pH 1)225 nm (ε=7400); UVλmax (pH 7) 250 nm (ε=4600); UVλmax (pH 11) 247 nm (ε=3600). Anal. (C3H3CIN4O, 146.54) C, H, N.

reactant | 2-Amino-4,6-dichloro-s-triazine | 0.1 mol, 16.5 g | NC1=NC(=NC(=N1)Cl)Cl | C3H2Cl2N4
reactant | sodium hydroxide | 0.11 mol, 4.4 g | [OH-].[Na+]
solvent | water | 250 mL | O | H2O
product | 2-Amino-4-chloro-6-hydroxy-s-triazine | NC1=NC(=NC(=N1)Cl)O | C3H3ClN4O
